US05194532
E. Preparation of Cyclopentadienyltitanium Tris(Dimethylamide) (Complex IV)
A 250 mL Schlenk flask is charged with titanium tetrakis(dimethylamide), 2.48 g (11.06 mmole), and toluene, 100 mL. Freshly cracked cyclopentadiene monomer, 2.7 mL (33.18 mmole), is added to the magnetically stirred solution. The mixture is refluxed 1 hour giving a deep red solution. All volatiles are removed under vacuum at room temperature leaving a viscous deep red oil. The oil is transferred to a microdistillation apparatus and a low melting solid is distilled at 70° C. under vacuum (0.05 mm Hg). The product is determined to be cyclopentadienyltitanium tris(dimethylamide).

reactant | titanium tetrakis(dimethylamide) | C[N-]C.C[N-]C.C[N-]C.C[N-]C.[Ti+4]
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Cyclopentadienyltitanium Tris(Dimethylamide) | C[N-]C.C[N-]C.C[N-]C.C1(C=CC=C1)[Ti+3] | InChI=1S/C5H5.3C2H6N.Ti/c1-2-4-5-3-1;3*1-3-2;/h1-5H;3*1-2H3;/q;3*-1;+3
